US07749992B2
Step 3. Preparation of (S)-9-Amino-2,2-difluoro-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester
To a solution of (R)-2,2-Difluoro-9-hydroxy-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester (1.9 mmol) in Toluene, add DPPA (2.5 mmol) and DBU (2.5 mmol). After heating the mixture at 65° C. for 14 h, remove solvent under vacuum and chromatograph the intermediate using ethyl acetate/hexane (5-20%) to elute. This provides (S)-9-Azido-2,2-difluoro-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester as a colorless oil. To a solution of (S)-9-Azido-2,2-difluoro-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester (1.8 mmol) in methanol (20 mL) add a catalytic amount of Pd/C after purging the solution with nitrogen. Place a balloon of hydrogen on the reaction and purge the solution several times. After stirring for 1 h, purge the solution with nitrogen then filter through celite. Collect the filtrate and remove solvent under vacuum to provide the title compound as a colorless oil.

reactant | (R)-2,2-Difluoro-9-hydroxy-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | 1.9 mmol | C(C)(C)(C)OC(=O)N1CCC[C@H](C2=CC=3OC(OC3C=C21)(F)F)O | C16H19F2NO5
reactant | DPPA | 2.5 mmol | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 2.5 mmol | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (S)-9-Azido-2,2-difluoro-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | 1.8 mmol | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3OC(OC3C=C21)(F)F)N=[N+]=[N-] | C16H18F2N4O4
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (S)-9-Amino-2,2-difluoro-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3OC(OC3C=C21)(F)F)N | C16H20F2N2O4
